US07151097B2
Preparation of Intermediate 5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-[2-(2,2,2-trifluoroethylamino)-ethoxy]-1H-pyrazole-3-carboxylic Acid, Hydrochloride (I-1h)
A solution of 5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-[2-(2,2,2-trifluoroethylamino)-ethoxy]-1H-pyrazole-3-carboxylic acid ethyl ester I-1g (48 mg, 0.1 mmol) and 6 N aqueous KOH (0.1 ml) in ethanol (1 ml) was heated at 50° C. for 2 hours. The reaction solution was cooled, acidified with concentrated aqueous hydrochloric acid, and concentrated in vacuo to a solid. These solids were slurried with ethanol, filtered and the remaining mass was washed with additional portions (2×) of ethanol. The combined filtrates were concentrated in vacuo to afford the title compound (I-1h), which was taken on the next step without further purification.

reactant | 5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-[2-(2,2,2-trifluoroethylamino)-ethoxy]-1H-pyrazole-3-carboxylic acid ethyl ester | 0.1 mmol, 48 mg | C(C)OC(=O)C1=NN(C(=C1OCCNCC(F)(F)F)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C22H20Cl2F3N3O3
reactant | KOH | 6 N, 0.1 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-[2-(2,2,2-trifluoroethylamino)-ethoxy]-1H-pyrazole-3-carboxylic Acid, Hydrochloride | Cl.ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=CC=C1)Cl)C(=O)O)OCCNCC(F)(F)F | InChI=1S/C20H16Cl2F3N3O3.ClH/c21-13-7-5-12(6-8-13)17-18(31-10-9-26-11-20(23,24)25)16(19(29)30)27-28(17)15-4-2-1-3-14(15)22;/h1-8,26H,9-11H2,(H,29,30);1H
